US09446393B2
A round bottom flask was charged with crude S)-4,5-bis((isobutoxycarbonyl)amino)pentanoic acid (14.22 g, 42.84 mmol) and 1,2-dimethoxyethane (70 mL). N-methyl morpholine (5.24 mL, 47.1 mmol) was added with stirring and the resulting solution was cooled to −25° C. Then isobutyl chloroformate (6.8 mL, 51.4 mmol) was added slowly and a white precipitate formed. The cold bath was removed, and the mixture was allowed to warm to room temperature. The precipitate was collected by filtration and washed with 1,2-dimethoxyethane (2×30 mL). The combined filtrate and washings were deoxygenated with a stream of nitrogen, and a solution of NaBH4 (2.43 g, 64.3 mmol) in EtOH (150 mL) was added dropwise at 0° C. After 2 h, water (10 mL) was cautiously added. The mixture was stirred overnight and the 0° C. bath was allowed to warm to room temperature. The solvent was removed by rotary evaporation. The resulting solid was dissolved in EtOAc (300 mL) and water (200 mL) was added. The aqueous phase was extracted with EtOAc (2×100 mL) and the combined organic phases were dried on anhydrous Na2SO4. The solvent was removed by rotary evaporation and the crude product was purified on a silica gel column (1:1 v/v EtOAc/Hexane). The solvent was removed and dried in vacuum to give (S)-diisobutyl (5-hydroxypentane-1,2-diyl)dicarbamate as a white solid (11.13 g, 35 mmol, 82%).

reactant | 4,5-bis((isobutoxycarbonyl)amino)pentanoic acid | 42.84 mmol, 14.22 g | C(C(C)C)OC(=O)NC(CCC(=O)O)CNC(=O)OCC(C)C | C15H28N2O6
reactant | N-methyl morpholine | 47.1 mmol, 5.24 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 51.4 mmol, 6.8 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 64.3 mmol, 2.43 g | [BH4-].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
solvent | water | 10 mL | O | H2O
solvent | 1,2-dimethoxyethane | 70 mL | COCCOC | C4H10O2
product | (S)-diisobutyl (5-hydroxypentane-1,2-diyl)dicarbamate | 35 mmol, 11.13 g, 82% | OCCC[C@@H](CNC(OCC(C)C)=O)NC(OCC(C)C)=O | C15H30N2O5
